US04921524
Preparation of 2-acetyl-3-hydroxy-4-(4-fluorophenyl)cyclohex-2-ene-1-one
A solution of 4-(4-fluorophenyl)cyclohexane-1,3-dione (4 g), acetic anhydride (6 ml) and 4-(N,N-dimethylamino) pyridine (0.2 g) in toluene (50 ml) was refluxed 3 hours. Evaporation of the toluene in vacuo gave a red oil, which, after purification on a silica gel column using 5% (v/v) diethyl ether-methylene chloride as eluant, gave the title compound as a yeoolw solid (4 g) of m.p. 67°-68° C.

reactant | 4-(4-fluorophenyl)cyclohexane-1,3-dione | 4 g | FC1=CC=C(C=C1)C1C(CC(CC1)=O)=O | C12H11FO2
reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-(N,N-dimethylamino) pyridine | 0.2 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-acetyl-3-hydroxy-4-(4-fluorophenyl)cyclohex-2-ene-1-one | C(C)(=O)C=1C(CCC(C1O)C1=CC=C(C=C1)F)=O | C14H13FO3
